US07598391B2
2-[2-(3,3-Dicyclohexylureido)-thiazol-4-ylmethylsulfanyl)-1H-imidazole-4-carboxylic acid ethyl ester
Prepared in 20% yield as described in general procedure (L) from 1,1-dicyclohexyl-3-(4-bromomethyl-thiazol-2-yl)urea and 2-mercapto-1H-imidazole-4-carboxylic acid ethyl ester.

reactant | 1,1-dicyclohexyl-3-(4-bromomethyl-thiazol-2-yl)urea | C1(CCCCC1)N(C(=O)NC=1SC=C(N1)CBr)C1CCCCC1 | C17H26BrN3OS
reactant | 2-mercapto-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(NC1)S | C6H8N2O2S
product | 2-[2-(3,3-Dicyclohexylureido)-thiazol-4-ylmethylsulfanyl)-1H-imidazole-4-carboxylic acid ethyl ester | 20% yield | C(C)OC(=O)C=1N=C(NC1)SCC=1N=C(SC1)NC(=O)N(C1CCCCC1)C1CCCCC1 | C23H33N5O3S2
